US07572820B2
B. 4-Chloro-5-(methyloxy)-2-(trifluoromethyl)-1H-benzimidazole
Sulfuryl chloride (0.39 mL, 4.86 mmol) was added dropwise to a 0° C. solution of 5-(methyloxy)-2-(trifluoromethyl)-1H-benzimidazole (1.0 g, 4.63 mmol) in HOAc (10 mL). The ice bath was removed and the mixture was allowed to stir at rt for 2 h. The concentrated reaction mixture was suspended in a mixture of EtOAc and H2O and the pH was adjusted to 7 with saturated aqueous NaHCO3. The reaction was partitioned and the aqueous portion was extracted with EtOAc. The combined organic fractions were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to afford the title compound (0.93 g): MS (ESI) m/z 251 (M+1).

reactant | Sulfuryl chloride | 4.86 mmol, 0.39 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 5-(methyloxy)-2-(trifluoromethyl)-1H-benzimidazole | 4.63 mmol, 1.0 g | COC1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C9H7F3N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-Chloro-5-(methyloxy)-2-(trifluoromethyl)-1H-benzimidazole | 0.93 g | ClC1=C(C=CC=2NC(=NC21)C(F)(F)F)OC | C9H6ClF3N2O
